US04459150
A solution of sodium 2-propenyloxide in allyl alcohol [30 ml; prepared by dissolving sodium metal (1.0 g) in allyl alcohol (40 ml)] was added to a stirred solution of 4-cyano-5-di(phenoxycarbonyl)amino-1-(2,3,4-trichlorophenyl)pyrazole (15 g) in tetrahydrofuran (300 ml). The mixture was stirred for 15 minutes at laboratory temperature then solid carbon dioxide pellets added to adjust the pH of the solution to pH7. The neutralized solution was filtered through diatomaceous earth and then evaporated under reduced pressure and the residue crystallised from a mixture of ethyl acetate and hexane to give 4-cyano-5-(2-propenyloxycarbonylamino)-1-(2,3,4-trichlorophenyl)pyrazole, m.p. 154°-155° C., in the form of colourless crystals.

reactant | sodium 2-propenyloxide | C(C=C)OCC=C.[Na]
reactant | 4-cyano-5-di(phenoxycarbonyl)amino-1-(2,3,4-trichlorophenyl)pyrazole | 15 g | C(#N)C=1C=NN(C1N(C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1)C1=C(C(=C(C=C1)Cl)Cl)Cl | C24H13Cl3N4O4
reactant | carbon dioxide | C(=O)=O | CO2
solvent | allyl alcohol | 30 ml, 1.0 g | C(C=C)O | C3H6O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 4-cyano-5-(2-propenyloxycarbonylamino)-1-(2,3,4-trichlorophenyl)pyrazole | C(#N)C=1C=NN(C1NC(=O)OCC=C)C1=C(C(=C(C=C1)Cl)Cl)Cl | C14H9Cl3N4O2
